US05198449
α-(4-Fluorophenyl)-N-(2-phenylethyl)-1-(phenylsulfonyl)-4-piperidinemethanamine
A mixture of 10.0 g (0.022 mol) of α-(4-fluorophenyl)-N-(2-phenylethyl)-1-(phenylsulfonyl)-4-piperidinemethanimine and 1.0 g (0.025 mol) of LiAlH4 in 200 mL of dry THF was stirred at room temperature for 8.5 hr. A 10 mL solution of 10% NaOH was slowly added followed by 100 mL of water. The mixture was extracted with CH2Cl2, and the solution was dried (MgSO4). The solvent was removed in vacuo to give an oil. This was crystallized from 200 ml of methanol to give 7.32 g (72.9%) of a white crystalline solid, mp 115°-117° C.

reactant | α-(4-fluorophenyl)-N-(2-phenylethyl)-1-(phenylsulfonyl)-4-piperidinemethanimine | 0.022 mol, 10.0 g | FC1=CC=C(C=C1)C(=NCCC1=CC=CC=C1)C1CCN(CC1)S(=O)(=O)C1=CC=CC=C1 | C26H27FN2O2S
reactant | LiAlH4 | 0.025 mol, 1.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | [OH-].[Na+]
reactant | water | 100 mL | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | α-(4-Fluorophenyl)-N-(2-phenylethyl)-1-(phenylsulfonyl)-4-piperidinemethanamine | 7.32 g, 72.9% | FC1=CC=C(C=C1)C(NCCC1=CC=CC=C1)C1CCN(CC1)S(=O)(=O)C1=CC=CC=C1 | C26H29FN2O2S
